* C:\Users\PC\Documents\ITBA\2020\1er cuatrimestre\Electro IV\Github posta\e4-tp1\TP1 - copia\Punto 2 (Fuente Buck).asc
V1 N001 0 9V
R1 Vo Vd 10
L1 N001 Vo 220µH
C1 Vo Vd 10µF
S1 Vd 0 N002 0 MYSW
D1 Vd N001 MUR460
V2 N002 0 PULSE(0 1 0 1n 1n 8.2222222u 20u)
.model D D
.lib C:\Users\PC\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 200u
.model MYSW SW(Ron=0.000001 Roff=1Meg Vt=0 Vh=0)
.backanno
.end
